US08912186B2
By a procedure similar to that of example 1.4, starting from methyl 3,4-diaminobenzoate and 3-(4-chlorophenyl)glutaric anhydride, 3-(4-chlorophenyl)-4-(5-methoxycarbonyl-2-benzimidazolyl)-butanoic acid•HCl was obtained as light tan solid, provided that cyclisation of the crude glutaramic acid was carried out in commercial 4M HCl in 1,4-dioxane at reflux for 0.5 h.

reactant | methyl 3,4-diaminobenzoate | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 3-(4-chlorophenyl)-4-(5-methoxycarbonyl-2-benzimidazolyl)-butanoic acid•HCl | ClC1=CC=C(C=C1)C(CC(=O)O)CC=1NC2=C(N1)C=CC(=C2)C(=O)OC.Cl | InChI=1S/C19H17ClN2O4.ClH/c1-26-19(25)12-4-7-15-16(8-12)22-17(21-15)9-13(10-18(23)24)11-2-5-14(20)6-3-11;/h2-8,13H,9-10H2,1H3,(H,21,22)(H,23,24);1H
